US05162316
7-(Ethoxycarbonylmethylamino)-4-oxo-2 (2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 32 reaction of 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.86 g), glycine ethyl ester hydrochloride (0.65 g) and triethylamine (0.47 g) in dichloromethane (15 ml) yielded the title compound, 0.38 g, m.p. 174.5°-176° C. (recrystallised from ethanol: water).

reactant | 7-methylsulphonyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.86 g | CS(=O)(=O)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O4S
reactant | glycine ethyl ester hydrochloride | 0.65 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.47 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 7-(Ethoxycarbonylmethylamino)-4-oxo-2 (2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(C)OC(=O)CNC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C19H21N5O4
